US08937078B2
Step A: Preparation of 1-[(3,4-dimethoxy-phenylamino)-ethoxycarbonylimino-methyl]-1H-pyrazole-4-carboxylic acid ethyl ester.
A solution of 3,4-dimethoxyaniline (0.15 g, 1.0 mmol), ethyl isothiocyanatoformate (0.14 mL, 1.2 mmol) and DCM (10 mL) was stirred at room temperature for 1 h. Triethylamine (0.42 mL, 3.0 mmol), ethyl pyrazole-4-carboxylate (0.17 g, 1.2 mmol), and EDCl (0.19 g, 1.2 mmol) were added and the solution was stirred at room temperature for 5 h. The mixture was concentrated, diluted with water, and extracted with DCM. The organic layer was dried and concentrated to provide the crude titled compound (390 mg, 100%). This material was used without purification: MS (ESI): mass calcd. for C18H22N4O6, 390.4; m/z found, 391.4 [M+H]+.

reactant | 3,4-dimethoxyaniline | 1.0 mmol, 0.15 g | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | ethyl isothiocyanatoformate | 1.2 mmol, 0.14 mL | N(=C=S)C(=O)OCC | C4H5NO2S
reactant | Triethylamine | 3.0 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl pyrazole-4-carboxylate | 1.2 mmol, 0.17 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | EDCl | 1.2 mmol, 0.19 g | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[(3,4-dimethoxy-phenylamino)-ethoxycarbonylimino-methyl]-1H-pyrazole-4-carboxylic acid ethyl ester | 390 mg, 100% | C(C)OC(=O)C=1C=NN(C1)C(=NC(=O)OCC)NC1=CC(=C(C=C1)OC)OC | C18H22N4O6
